US03932643
3,8-Bis[(β-Diisopropylamino(ethoxy]-6-Chloro-Phenanthridine
Phosphorous pentachloride (173 mg., 0.83 mM), phosphorous oxychloride (80 ml.) and 3,8-bis[(β-diisopropylamino(ethoxy]-6(5H)-phenanthridinone (2.0 g., 4.15 mM) were reacted according to the procedure of Example VII to give 1.66 g. of the title product; M.P. 88° C.-91° C.

reactant | Phosphorous pentachloride | 0.83 mM, 173 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | β-diisopropylamino(ethoxy]-6(5H)-phenanthridinone | 4.15 mM, 2.0 g | C(C)(C)N(CCOC1=CC=CC=2NC(C3=CC=CC=C3C12)=O)C(C)C | C21H26N2O2
solvent | phosphorous oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | β-Diisopropylamino(ethoxy]-6-Chloro-Phenanthridine | C(C)(C)N(CCOC1=CC=CC2=NC(=C3C=CC=CC3=C12)Cl)C(C)C | C21H25ClN2O
